* source 串联谐振电路通用曲线
R_R         N15074 N14901  200 TC=0,0 
L_L         N14961 0  200m  TC=0,0 
V_V1         N14893 0  AC 5V
+SIN 0V 5V 100 0 0 0
C_C         N14901 N14961  0.022u  TC=0,0 
V_PRINT1         N14893 N15074 0V
          
.PRINT        AC       IM(V_PRINT1)
