* source 并联谐振电路
C_C1         N15993 0  0.1u  TC=0,0 
L_L1         N15993 0  200m  TC=0,0 
R_R3         N15993 0  30k TC=0,0 
V_Us1         N15985 0  AC 5V
+SIN 0V 5V 100 0 0 0
R_R2         N15985 N15993  1k TC=0,0 
C_C2         N16578 N16472  0.1u  TC=0,0 
R_R5         N16344 N16472  30k TC=0,0 
R_R4         N16336 N16344  1k TC=0,0 
L_L2         N16551 N16472  200m  TC=0,0 
V_Us2         N16336 0  AC 5V
+SIN 0V 5V 100 0 0 0
V_PRINT1         0 N16472 0V
          
.PRINT        AC       IM(V_PRINT1)
V_PRINT2         N16551 N16344 0V
          
.PRINT        AC       IM(V_PRINT2)
V_PRINT3         N16578 N16344 0V
          
.PRINT        AC       IM(V_PRINT3)
