* source Ðý×ªÆ÷
R_R5         N19254 N19162  1000 TC=0,0 
R_R4         N19262 N19162  1000 TC=0,0 
V_V         N19292 0 10Vdc
R_R3         0 N19254  1661.64 TC=0,0 
V_PRINT1         N19292 N19949 0V
         
.PRINT        DC I(V_PRINT1) 
V_PRINT2         N20039 0 0V
         
.PRINT        DC I(V_PRINT2) 
R_R         N19903 N20039  1000 TC=0,0 
          
.PRINT         DC V([N19903],[N20039]) 
R_R1         N19949 N19262  334.60 TC=0,0 
R_R2         N19262 N19903  334.60 TC=0,0 
X_U1A         N19262 N19254 N21571 N21578 N19162 LM158
V_V1         N21571 N215431 100Vdc
V_V2         N215431 N21578 100Vdc
V_V4         N23894 N239721 100Vdc
R_R11         0 N24020  1661.64 TC=0,0 
V_V5         N239721 N24052 100Vdc
R_R9         N23846 0  1000 TC=0,0 
R_R6         N23822 N23834  334.60 TC=0,0 
R_R10         N24020 N23884  1000 TC=0,0 
R_R8         N23834 N23884  1000 TC=0,0 
X_U1B         N23834 N24020 N23894 N24052 N23884 LM158
R_R7         N23834 N23846  334.60 TC=0,0 
V_V6         N23822 0 DC 10 AC 10
+SIN 0 10 50 0 0 0
