* source 旋转器之二极管
V_V2         N235851 N23675 100Vdc
R_R5         N23631 N23497  1000 TC=0,0 
R_R3         N23631 0  1661.64 TC=0,0 
V_V         N23435 0 10Vdc
V_PRINT4         N23435 N23443 0V
         
.PRINT        DC I(V_PRINT4) 
R_R1         N23443 N23447  334.60 TC=0,0 
R_R4         N23447 N23497  1000 TC=0,0 
X_U1B         N23447 N23631 N23507 N23675 N23497 LM158
V_V1         N23507 N235851 100Vdc
X_U2         N23679 N23459 0 BPW32 PARAMS: Spec=1.0 Sensy=0.5
R_R2         N23447 N23459  334.60 TC=0,0 
V_PRINT6         N23679 0 0V
         
.PRINT        DC I(V_PRINT6) 
          
.PRINT         DC V([N23459],[N23679]) 
X_U3B         N25092 N25276 N25152 N25324 N25142 LM158
X_U4         N25104 0 0 BPW32 PARAMS: Spec=1.0 Sensy=0.5
R_R10         N25276 0  1661.64 TC=0,0 
R_R9         N25276 N25142  1000 TC=0,0 
R_R7         N25092 N25104  334.60 TC=0,0 
V_V4         N25152 N252301 100Vdc
R_R8         N25092 N25142  1000 TC=0,0 
V_V5         N252301 N25324 100Vdc
R_R6         N25080 N25092  334.60 TC=0,0 
V_V6         N25080 0 DC 10 AC 10
+SIN 0 10 50 0 0 0
